US04098794
5,6-Dihydro-4-oxo-N-phenyl-4H-thieno[2,3-b]-thiopyran-5-carboxamide
A mixture of methyl 5,6-dihydro-4-oxo-4H-thieno[2,3-b]-thiopyran-5-carboxylate (5.7 g, 0.025 mole), aniline (3.5 g, 0.0375 mole) and xylene (180 ml) is refluxed for 2.5 hrs. in a Soxhlet apparatus, the thimble of which contains 20 g of Linde type 4A molecular sieve. The mixture is cooled in an ice bath, and the resulting crystalline precipitate (m.p.155°-158° C.) is collected, dried and recrystallized from methylene chloride and isopropyl ether to give 6.5 g (90%) of off-white crystalline material, m.p. 155°-158° C.

reactant | methyl 5,6-dihydro-4-oxo-4H-thieno[2,3-b]-thiopyran-5-carboxylate | 0.025 mole, 5.7 g | O=C1C2=C(SCC1C(=O)OC)SC=C2 | C9H8O3S2
reactant | aniline | 0.0375 mole, 3.5 g | NC1=CC=CC=C1 | C6H7N
solvent | xylene | 180 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5,6-Dihydro-4-oxo-N-phenyl-4H-thieno[2,3-b]-thiopyran-5-carboxamide | 6.5 g, 90% | O=C1C2=C(SCC1C(=O)NC1=CC=CC=C1)SC=C2 | C14H11NO2S2
